US05104888
6-Acetoxy-2-(4-aminophenoxymethyl)-2-isobutyl-5,7,8-trimethylchroman-4-one
1.4 g of 6-acetoxy-2-isobutyl-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)chroman-4-one (prepared as described in Preparation 7) was dissolved in 35 ml of methanol, and, in the presence of 1 g of 10% w/w palladium-on-carbon, it was reduced for 3 hours under about 1 atmosphere (about 1 bar) pressure of hydrogen. The catalyst was filtered off, and the solvent was then distilled off under reduced pressure to give the title compound.

reactant | 6-acetoxy-2-isobutyl-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)chroman-4-one | 1.4 g | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])CC(C)C)=O)C | C25H29NO7
reactant | hydrogen | [H][H] | H2
solvent | methanol | 35 ml | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 6-Acetoxy-2-(4-aminophenoxymethyl)-2-isobutyl-5,7,8-trimethylchroman-4-one | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(CC(C)C)COC1=CC=C(C=C1)N)=O)C | C25H31NO5
